US07119122B2
4-Chloro-2-fluorobenzonitrile (0.34 g, 2.2 mmol), 3-allyl-4-hydroxybenzaldehyde (0.34 g, 2.1 mmol) and potassium fluoride (6.37 g, 6.3 mmol) were heated with stirring in dry DMF (4 mL) at 120° C. for 4 h. The reaction mixture was cooled, poured into 0.1N sodium hydroxide solution and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with 0.1N sodium hydroxide solution (3×), water (2×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo and the residue purified by chromatography to give 2-(2-allyl-4-formyl-phenoxy)4-chlorobenzonitrile (0.09 g, 15%) as a colourless oil.

reactant | 4-Chloro-2-fluorobenzonitrile | 2.2 mmol, 0.34 g | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | 3-allyl-4-hydroxybenzaldehyde | 2.1 mmol, 0.34 g | C(C=C)C=1C=C(C=O)C=CC1O | C10H10O2
reactant | potassium fluoride | 6.3 mmol, 6.37 g | [F-].[K+]
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-(2-allyl-4-formyl-phenoxy)4-chlorobenzonitrile | 0.09 g, 15% | C(C=C)C1=C(OC2=C(C#N)C=CC(=C2)Cl)C=CC(=C1)C=O | C17H12ClNO2
